US07232820B2
A mixture of 2-(6,8-difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [5-(2-hydroxy-1,1-dimethyl-ethyl)-[1,3,4]thiadiazol-2-yl]-amide (60 mg) and Dess-Martin oxidizing agent (100 mg) in methylene chloride (1 mL) and DMSO(1 mL) was stirred at room temperature for 4 hr. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated and concentrated. The residue was purified by silica gel column chromatography using 20% to 50% ethyl acetate in hexane as eluent to give 2-(6,8-difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [5-(1,1-dimethyl-2-oxo-ethyl)-[1,3,4]thiadiazol-2-yl]-amide as a brown oil, LC-MS RT=2.1 min, M+1=436.9.0.

reactant | 2-(6,8-difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [5-(2-hydroxy-1,1-dimethyl-ethyl)-[1,3,4]thiadiazol-2-yl]-amide | 60 mg | OCC(C)(C)C1=NN=C(S1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C21H28F2N4O2S
reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(6,8-difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [5-(1,1-dimethyl-2-oxo-ethyl)-[1,3,4]thiadiazol-2-yl]-amide | CC(C=O)(C)C1=NN=C(S1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C21H26F2N4O2S
